US07635684B2
To a solution of 4-bromo-3-methylphenol (2.5 g) in N,N-dimethylformamide (10 mL) were added cesium carbonate (4.79 g), benzyl 3-bromopropyl ether (2.48 mL) and a catalytic amount of sodium iodide, and the mixture was stirred at room temperature for 60 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The organic layer was washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 4-(3-benzyloxypropoxy)-1-bromo-2-methyl-benzene. This material was dissolved in tetrahydrofuran (100 mL). To the solution was added n-butyl lithium (2.46 mol/L n-hexane solution, 6 mL) at −78° C. under an argon atmosphere, and the mixture was stirred for 5 minutes. To the reaction mixture was added N,N-dimethylformamide (2.57 mL), and the mixture was allowed to warm to 0° C. and stirred for 1 hour. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The organic layer was washed with water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 4-(3-benzyloxypropoxy)-2-methylbenzaldehyde. This material was dissolved in ethanol (40 mL). To the solution was added sodium borohydride (506 mg), and the mixture was stirred at room temperature overnight. To the reaction mixture was added methanol, and the resulting mixture was concentrated under reduced pressure. Water was added to the residue, and the mixture was extracted with diethyl ether. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1-1.5/1) to give the title compound (3.33 g).

reactant | 4-bromo-3-methylphenol | 2.5 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | cesium carbonate | 4.79 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl 3-bromopropyl ether | 2.48 mL | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | sodium iodide | [I-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(3-benzyloxypropoxy)-1-bromo-2-methyl-benzene | C(C1=CC=CC=C1)OCCCOC1=CC(=C(C=C1)Br)C | C17H19BrO2
